US07153844B2
Step A. Synthesis of methyl 11-iodoundecanoate
To a solution of commercially available methyl 11-bromoundecanoate (5.80 g, 20.8 mmol) dissolved in dry acetone (70 mL) was added sodium iodide (4.05 g, 27.0 mmol). The reaction mixture was stirred at room temperature (22° C.) for 19 h under an inert nitrogen atmosphere. Afterwards, the acetone was evaporated and the residue transferred into an extraction funnel with diethyl ether (100 mL) and water (40 mL). The organic phase was washed with a thiosulfate solution (5% w/v, 2×20 mL) and with water 3×40 mL. The organic phase was dried, filtered on a short column of celite and celica (1 cm/4 cm) with a mixture of hexanes:acetone as the eluent. Evaporation of the solvent gave the title compound (95%) as an oil, which was used without further purification at the next step.

reactant | methyl 11-bromoundecanoate | 20.8 mmol, 5.80 g | BrCCCCCCCCCCC(=O)OC | C12H23BrO2
reactant | sodium iodide | 27.0 mmol, 4.05 g | [I-].[Na+]
solvent | acetone | 70 mL | CC(=O)C | C3H6O
product | methyl 11-iodoundecanoate | 95% | ICCCCCCCCCCC(=O)OC | C12H23IO2
